US07544794B1
3′-O-(Fmoc)amino-thymidine-5′-triphosphate is dissolved in 20% piperidine in DMF (0.5 mL). The mixture is stirred at room temperature for 30 minutes and then concentrated in vacuo. The residue is redissolved in triethylammonium acetate buffer (aqueous, 10 mM; pH 7; 2 mL) and purified by rp-HPLC (C18, gradient 0-21% acetonitrile in 10 mM triethylammonium acetate over 27 minutes) to give 3′-O-amino-thymidine-5′-triphosphate as a colorless foam. The purity of the product is confirmed by analytical ion-exchange chromatography (DEAE, gradient 0-1 M triethylammonium bicarbonate in water over 30 minutes). 1H-NMR (D2O; 300 MHz): δ (ppm)=1.80 (s, 3H); 2.18 (m, 1H); 2.34-2.39 (m, 1H); 4.03-4.09 (m, 2H); 4.25 (m, 1H); 4.45 (m, 1H); 6.17 (dd, J=6.0, 9.1 Hz, 1H); 7.66 (s, 1H). 31P-NMR (D2O; 162 MHz): δ (ppm; H3PO4=0)=−14.1 (br s, IP); −16.3 (br s, IP); −27.7 (br s, 1P). MS-ESI−: [M-H]− calcd. for C10H17O14N3P3, 496.0; found, 496.4.

reactant | 3′-O-(Fmoc)amino-thymidine-5′-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)ONC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C25H28N3O16P3
solvent | piperidine | N1CCCCC1 | C5H11N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3′-O-amino-thymidine-5′-triphosphate | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)ON | C10H18N3O14P3
